US04397862
Preparation of Carboxymethyl Benzoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-thiocarboxylate
To a suspension of 1.0 g of 5-benzoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in 30 ml of dry benzene was added 0.29 ml of thionyl chloride and 0.03 ml of dimethylformamide. The mixture was left for 18 hours at room temperature and then evaporated under vacuum. To the residue so obtained were added 30 ml of ether, 1 ml of thioglycolic acid, and 1 ml of triethylamine. After 24 hours at room temperature, the reaction mixture was added to ethyl acetate, and the resultant solutions was washed with water, dried and evaporated. The residue so obtained was chromatographed on silica gel, eluting with 100:100:2 hexane:ethyl acetate:acetic acid, so as to obtain the desired product as a gum. This material was dissolved in 25 ml of ethyl acetate, and to the resulting solution was added a solution of 1.5 molar equivalents of sodium 2-ethylhexanoate in 20 ml of ethyl acetate. The sodium salt of the desired product precipitated out and was filtered, washed with ethyl acetate and dried under vacuum. The product has a decomposition point of 170°-180° C.

reactant | 5-benzoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | 1.0 g | C(C1=CC=CC=C1)(=O)C1=CC=C2N1CCC2C(=O)O | C15H13NO3
reactant | thionyl chloride | 0.29 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.03 ml | CN(C=O)C | C3H7NO
reactant | thioglycolic acid | 1 ml | C(CS)(=O)O | C2H4O2S
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 30 ml | CCOCC | C4H10O
product | Carboxymethyl Benzoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-thiocarboxylate | C(C1=CC=CC=C1)(=O)C1(C=2N(CC1)C=CC2)C(OCC(=O)O)=S | C17H15NO4S
